US07371772B2
To a solution of methyl 1-isobutyl-8-[4-(2-propoxyethoxy)phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylate (1.20 g) in a mixture of ethanol-THF (10-5 ml) was added an aqueous 1N sodium hydroxide solution (5.2 ml) at room temperature. The mixture was stirred at 60° C. for 16 hours and cooled to 0° C. 1N Hydrochloric acid (6 ml) was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropylether to give 1-isobutyl-8-[4-(2-propoxyethoxy)phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylic acid (0.96 g) as yellow crystals.

reactant | methyl 1-isobutyl-8-[4-(2-propoxyethoxy)phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylate | 1.20 g | C(C(C)C)N1CCCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C28H37NO4
reactant | sodium hydroxide | 1N, 5.2 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 6 ml | Cl | ClH
solvent | ethanol THF | 10-5 ml | C(C)O.C1CCOC1
product | 1-isobutyl-8-[4-(2-propoxyethoxy)phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylic acid | 0.96 g | C(C(C)C)N1CCCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)O | C27H35NO4
